US08138187B2
3-(2-(4-(dimethylamino)-4-phenylcyclohexyl)-1H-indol-3-yl)propionic acid hydrochloride, polar diastereomer (153)
3-[2-(4-Dimethylamino-4-phenylcyclohexyl)-1H-indol-3-yl]propionic acid (more polar diastereomer) (419 mg, 1.08 mmol) was dissolved in ethyl acetate (50 ml). Me3SiCl (276 μl, 1.16 mmol) was added dropwise at RT and the mixture was stirred for 16 h. The solvent was distilled off on a rotary evaporator and Example 153 (458 mg, m.p. 242-245° C., 100%) was obtained as a white solid.

reactant | 3-[2-(4-Dimethylamino-4-phenylcyclohexyl)-1H-indol-3-yl]propionic acid | CN(C1(CCC(CC1)C=1NC2=CC=CC=C2C1CCC(=O)O)C1=CC=CC=C1)C | C25H30N2O2
reactant | Me3SiCl | 1.16 mmol, 276 μl | [Si](C)(C)(C)Cl | C3H9ClSi
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 3-(2-(4-(dimethylamino)-4-phenylcyclohexyl)-1H-indol-3-yl)propionic acid hydrochloride | Cl.CN(C1(CCC(CC1)C=1NC2=CC=CC=C2C1CCC(=O)O)C1=CC=CC=C1)C | InChI=1S/C25H30N2O2.ClH/c1-27(2)25(19-8-4-3-5-9-19)16-14-18(15-17-25)24-21(12-13-23(28)29)20-10-6-7-11-22(20)26-24;/h3-11,18,26H,12-17H2,1-2H3,(H,28,29);1H
